US05779934
In a reactor equipped with a stirrer and a thermometer, 2-(4-bromophenyl)-5-benzyloxypyrimidine, 6-tetrahydropyranyloxy-1-heptyne, dichlorobis(triphenylphosphine)palladium, copper iodide, triphenylphosophine and triethylamine are charged and heated up to 90° C. to carry out a reaction for 8 hours. After extraction with toluene and washing with water, the mixture is evaporated under reduced pressure. A resulting residue is purified by silica gel column chromatography to obtain 5-benzyloxy-2-[4-(6-tetrahydropyranyloxy-1-heptynyl)phenyl]pyrimidine.

reactant | 2-(4-bromophenyl)-5-benzyloxypyrimidine | BrC1=CC=C(C=C1)C1=NC=C(C=N1)OCC1=CC=CC=C1 | C17H13BrN2O
reactant | 6-tetrahydropyranyloxy-1-heptyne | O1C(CCCC1)OC(CCCC#C)C | C12H20O2
catalyst | dichlorobis(triphenylphosphine)palladium | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | [Cu](I)I
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-benzyloxy-2-[4-(6-tetrahydropyranyloxy-1-heptynyl)phenyl]pyrimidine | C(C1=CC=CC=C1)OC=1C=NC(=NC1)C1=CC=C(C=C1)C#CCCCC(C)OC1OCCCC1 | C29H32N2O3
